US05767268
2,3,4,5,6-Penta-O-acetyl-D-gulonic acid (benzyl 3,4-di-O-acetyl-2-benzyloxycarbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide was hydrogenated as described under Ex. 13.B. and gave 2,3,4,5,6-penta-O-acetyl-D-gulonic acid (benzyl 3,4-di-O-acetyl-2-amino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide, [α]+95.0° (c 0.2; dioxan), MS: m/z 741.4 ([M+H]+).

reactant | 2,3,4,5,6-Penta-O-acetyl-D-gulonic acid (benzyl 3,4-di-O-acetyl-2-benzyloxycarbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CNC(=O)[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)NC(=O)OCC1=CC=CC=C1 | C41H50N2O19
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2,3,4,5,6-penta-O-acetyl-D-gulonic acid (benzyl 3,4-di-O-acetyl-2-amino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CNC(=O)[C@H](OC(C)=O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)N | C33H44N2O17
